US07582773B2
Step 5: Synthesis of [4-(9-Benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol (0.421 g, 1.191 mmol) was reacted with K2CO3 (0.198 g, 1.429 mmol) and bromoacetonitrile (0.171 g, 1.429 mmol) in acetone to give the product (0.369 g, 0.940 mmol, 79%) as a white solid, mp 149-153° C. 1H NMR (DMSO-d6) δ 1.79-1.86 (m, 4H), 2.63-2.72 (m, 4H), 5.19 (s, 2H), 5.34 (s, 2H), 7.04 (d, J=7.5 Hz, 2H), 7.12 (d, J=7.5 Hz, 2H), 7.22 (t, J=7.2 Hz, 1H), 7.27-7.30 (m, 3H), 7.41 (d, J=8.6 Hz, 1H), 7.62 (s, 1H), 7.65 (d, J=8.6 Hz, 2H); [ESI(+)], m/z 393 (M+H)+.

reactant | 4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol | 1.191 mmol, 0.421 g | C(C1=CC=CC=C1)N1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(C=C1)O | C25H23NO
reactant | K2CO3 | 1.429 mmol, 0.198 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.429 mmol, 0.171 g | BrCC#N | C2H2BrN
solvent | acetone | CC(=O)C | C3H6O
product | [4-(9-Benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)N1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(OCC#N)C=C1 | C27H24N2O
